US05118686
6-Hydroxy-2-(2-propoxyphenyl)pyrimidine-4-carboxylic acid
A solution of 2-propoxybenzamidine methanesulphonate (2.9g), 10% sodium hydroxide (4 ml) and ethyl 4-oxalacetate (1.6g) in water (8 ml) was stirred at ambient temperature for 42 hours. The reaction mixture was evaporated to dryness to yield a crude product which was washed with dilute hydrochloric acid and water to 5 yield the title compound, 0.82g, m.p. 179.5°-181.5° C. A sample (0.4g) was recrystallised from ethanol to yield the pure title compound, 0.24 g, m.p. 184°-5° C.

reactant | 2-propoxybenzamidine methanesulphonate | 2.9g | CS(=O)(=O)O.C(CC)OC1=C(C(=N)N)C=CC=C1
reactant | sodium hydroxide | 4 ml | [OH-].[Na+]
reactant | water | 8 ml | O | H2O
product | 6-Hydroxy-2-(2-propoxyphenyl)pyrimidine-4-carboxylic acid | OC1=CC(=NC(=N1)C1=C(C=CC=C1)OCCC)C(=O)O | C14H14N2O4
